US08304419B2
Step D: 4-chloro-2-(1-methylethyl)-1H-imidazole-5-carboxylic acid
A solution of sodium chlorite (0.92 g, 10.2 mmol) and sodium dihydrogen phosphate monohydrate (0.81 g, 5.9 mmol) in water (2.2 mL) was added to a stirred solution of 4-chloro-2-(1-methylethyl)-1H-imidazole-5-carbaldehyde (0.165 g, 1.0 mmol), 2-methyl-2-butene (6.2 mL of a 2M solution in THF, 12.4 mmol), and tert-butanol (0.8 mL) in THF (3.1 mL). The reaction mixture was stirred at RT for 6 h. The aqueous phase was separated and extracted with EtOAc (4×10 mL). The combined extracts were dried (Na2SO4), filtered, concentrated and the residue was triturated with diethyl ether to provide the title compound (0.173 g, 92%) as light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.99 (br. s., 1H), 12.82 (br. s., 1H), 2.95 (sept, 1H), 1.20 (d, 6H). ES-LCMS: m/z 189.0 (M+1).

reactant | sodium chlorite | 10.2 mmol, 0.92 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen phosphate monohydrate | 5.9 mmol, 0.81 g | O.P(=O)(O)(O)[O-].[Na+]
reactant | 4-chloro-2-(1-methylethyl)-1H-imidazole-5-carbaldehyde | 1.0 mmol, 0.165 g | ClC=1N=C(NC1C=O)C(C)C | C7H9ClN2O
reactant | 2-methyl-2-butene | CC(C)=CC | C5H10
solvent | water | 2.2 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 3.1 mL | C1CCOC1 | C4H8O
solvent | tert-butanol | 0.8 mL | C(C)(C)(C)O | C4H10O
product | 4-chloro-2-(1-methylethyl)-1H-imidazole-5-carboxylic acid | 0.173 g, 92% | ClC=1N=C(NC1C(=O)O)C(C)C | C7H9ClN2O2
